US07129225B2
7-bromo-5-fluoro-1H-indole-2-carboxylic acid (5)
Tetrahydrofuran (35.2 ml), water (23.5 ml), lithium hydroxide (2.61 g, 10.9 mmol), and 7-bromo-5-fluoro-1H-indole-2-carboxylic acid ethyl ester (3.11 g, 10.9 mmol) were added to a round bottom flask and mixed with a magnetic stirrer. This mixture was refluxed for 1 hour. The THF was removed via rotary evaporator, and the aqueous solution was acidified with 1M HCL, and extracted with ethyl acetate. 1H NMR (DMSO-d6): δ13.206 (bs, 1H), δ11.876 (s, 1H), δ7.498–7.445 (m, 2H), δ7.19 (d, J=2.0 Hz, 1.0H).

reactant | Tetrahydrofuran | 35.2 ml | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 10.9 mmol, 2.61 g | [OH-].[Li+]
reactant | 7-bromo-5-fluoro-1H-indole-2-carboxylic acid ethyl ester | 10.9 mmol, 3.11 g | C(C)OC(=O)C=1NC2=C(C=C(C=C2C1)F)Br | C11H9BrFNO2
solvent | water | 23.5 ml | O | H2O
product | 7-bromo-5-fluoro-1H-indole-2-carboxylic acid | BrC=1C=C(C=C2C=C(NC12)C(=O)O)F | C9H5BrFNO2
